US05654307
A mixture of 4-methylthiopyrido[3,4-d]pyrimidine (75 mg, 0.42 mmol), and aniline (1 mL) is heated to 100° C. under N2 for 2 h. The reaction mixture is then chromatographed on silica using MPLC and eluting with a gradient system (CHCl3 to 5% MeOH in CHCl3). The fractions are concentrated under reduced pressure, and the resulting solid is recrystallized from Et2O to yield 4-anilinopyrido[3,4-d]pyrimidine (21.2 mg, 23%) as a yellow solid. 1H NMR (DMSO) 8 10.09 (1H, s), 9.18 (1H, s), 8.74 (1H, d, J=5.3 Hz), 8.46 (1H, d, J=5.8 Hz), 7.89 (2H, d, J=8.5 Hz), 7.45 (2H, t, J=7.9 Hz), 7.21 (1H, t, J=7.4 Hz).

reactant | 4-methylthiopyrido[3,4-d]pyrimidine | 0.42 mmol, 75 mg | CSC=1C2=C(N=CN1)C=NC=C2 | C8H7N3S
reactant | aniline | 1 mL | NC1=CC=CC=C1 | C6H7N
product | 4-anilinopyrido[3,4-d]pyrimidine | 21.2 mg, 23% | N(C1=CC=CC=C1)C=1C2=C(N=CN1)C=NC=C2 | C13H10N4
